US07179801B2
To a solution of 5-amino-4-formamidomethyl-1-(2-triphenylmethyloxyethyl)pyrazole (2.06 g) in dichloromethane (10 ml) were added trimethylsilyl iodide (1.38 ml) and diisopropylethylamine (1.68 ml) under ice-cooling, and the mixture was stirred under ice-cooling for 2 hours. To the reaction mixture was added a mixture of benzhydryl 7β-[(Z)-2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (2 g) and sodium iodide (364 mg) in N,N-dimethylformamide (4 ml) which had been stirred under ice-cooling for 0.5 hour. The reaction mixture was stirred at room temperature for 22 hours and added to a mixture of ethyl acetate and water. The organic layer was separated and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated to about 20 ml in vacuo. The concentrate was poured into diisopropyl ether (150 ml), and the resulting precipitate was collected by filtration and dried in vacuo. To a solution of the resulting solid in methylene chloride (9 ml) were added anisole (3 ml) and trifluoroacetic acid (6 ml). The resulting solution was stirred at room temperature for 3 hours and poured into diisopropyl ether (300 ml). The resulting precipitate was collected by filtration and dried in vacuo. The obtained powder was dissolved in a phosphate buffer (pH 7), and the solution was adjusted to about pH 6 with saturated aqueous sodium hydrogencarbonate solution. The solution containing the objective compound was purified by preparative HPLC utilizing ODS column. The eluate containing a desired product was concentrated in vacuo. The concentrate was adjusted to about pH 2 with concentrated hydrochloric acid and chromatographed on Diaion® HP-20 (Mitsubishi Chemical Corporation) eluting with 20% aqueous 2-propanol. The eluate was evaporated in vacuo and lyophilized to give 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)-acetamido]-3-[3-amino-4-formamidomethyl-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (103 mg) as an amorphous solid.

reactant | 5-amino-4-formamidomethyl-1-(2-triphenylmethyloxyethyl)pyrazole | 2.06 g | NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CNC=O | C26H26N4O2
reactant | trimethylsilyl iodide | 1.38 ml | C[Si](C)(C)I | C3H9ISi
reactant | diisopropylethylamine | 1.68 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzhydryl 7β-[(Z)-2-(5-tert-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 2 g | C(C)(C)(C)OC(=O)NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C38H43ClN6O9S2
reactant | sodium iodide | 364 mg | [I-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)-acetamido]-3-[3-amino-4-formamidomethyl-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 103 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=C(C2)CNC=O)N)CCO)C(=O)[O-])C1=O)=N/OC(C)(C)C(=O)O | C23H28N10O9S2
